US07662958B2
To the solution of 3-[7-(azidomethyl)-1,1-dioxido-4H-thieno[2,3-e][1,2,4]thiadiazin-3-yl]-1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one (357 mg, 0.62 mmol) in pyridine (4.6 mL) and concentrated ammonium hydroxide (3 mL) was added triphenylphosphine (397 mg, 1.51 mmol) at room temperature. The solution was stirred at room temperature overnight and concentrated under reduced pressure. The residue was diluted with 30% hexane/toluene and the solid was filtered to give 3-[7-(aminomethyl)-1,1-dioxido-4H -thieno[2,3-e][1,2,4]thiadiazin-3-yl]-1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one (250 mg, 90%). MS (ESI−) m/z 446 (M+H)+. 1H NMR (300 MHz, DMSO-d6) δ 0.21 (m, 2H) 0.46 (br d, J=8.09 Hz, 2H) 1.00 (m, 1H) 4.12 (s, 2H) 5.98 (t, J=6.43 Hz, 1H) 7.12 (m, 1H) 7.22 (s, 1H) 7.58 (m, 1H) 772 (d, J=7.72 Hz, 1H) 8.04 (m, 1H).

reactant | 3-[7-(azidomethyl)-1,1-dioxido-4H-thieno[2,3-e][1,2,4]thiadiazin-3-yl]-1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one | 0.62 mmol, 357 mg | N(=[N+]=[N-])CC1=CSC=2NC(=NS(C21)(=O)=O)C=2C(N(C1=CC=CC=C1C2O)NCC2CC2)=O | C19H17N7O4S2
reactant | triphenylphosphine | 1.51 mmol, 397 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | pyridine | 4.6 mL | N1=CC=CC=C1 | C5H5N
solvent | ammonium hydroxide | 3 mL | [OH-].[NH4+]
product | 3-[7-(aminomethyl)-1,1-dioxido-4H -thieno[2,3-e][1,2,4]thiadiazin-3-yl]-1-[(cyclopropylmethyl)amino]-4-hydroxyquinolin-2(1H)-one | 250 mg, 90% | NCC1=CSC=2NC(=NS(C21)(=O)=O)C=2C(N(C1=CC=CC=C1C2O)NCC2CC2)=O | C19H19N5O4S2
